US06720346B2
Anhydrous ammonia gas was bubbled through a solution of (S)-(−)-1-(tert-butoxycarbonyl)-2-piperidine carboxylic acid (500 mg, 2.18 mmol) in DMF (50 ml) for 15 minutes. PyBop (1.25 g, 2.40 mmol) was added. After 5 hours, solvent was evaporated under reduced pressure. A solution of the resultant residue in ethyl acetate was washed with 5% citric acid (50 ml×3), 1 N NaOH (50 ml×3), dried with MgSO4, filtered, and concentrated to give 450 mg of (S)-2-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester as a clear oil in 95% yield, which was used without further purification.

reactant | ammonia | N | H3N
reactant | (S)-(−)-1-(tert-butoxycarbonyl)-2-piperidine carboxylic acid | 2.18 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(=O)O | C11H19NO4
reactant | PyBop | 2.40 mmol, 1.25 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (S)-2-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 450 mg, 95% yield | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(N)=O | C11H20N2O3
